US09376398B2
(i) Methyl 3-methoxy-4-(2-(methoxycarbonyl)-3-oxobutyl)benzoate
NaH (60% in mineral oil, 1.5 g) was added portion-wise over 10 mins to a solution of ethyl acetoacetate (4.4 mL) in THF (60 mL) at 0° C. The mixture was then stirred for 10 mins. Then, a solution of methyl 4-(bromomethyl)-3-methoxybenzoate (7.5 g) in THF (40 mL) was added and the mixture was warmed to 70° C. and stirred for 15 h. The mixture was then poured into ice/water (300 mL) and stirred for 30 mins. The resulting aqueous mixture was extracted with EtOAc. The organic extracts were combined, dried and concentrated in vacuo to provide crude product. The reaction was repeated on the same scale. The two batches of crude product were combined and purified by flash column chromatography on silica gel to give the sub-title compound (15 g) as a colourless oil; 1H NMR (300 MHz, CDCl3) δ=7.48 (1H, dd), 7.45 (1H, d), 7.24 (1H, d), 4.05 (2H, q), 3.95 (1H, dd), 3.86 (3H, s), 3.84 (3H, s), 3.10 (1H, dd), 3.00 (1H, dd), 2.17 (3H, s), 1.09 (3H, t).

reactant | NaH | 1.5 g | [H-].[Na+]
reactant | ethyl acetoacetate | 4.4 mL | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | methyl 4-(bromomethyl)-3-methoxybenzoate | 7.5 g | BrCC1=C(C=C(C(=O)OC)C=C1)OC | C10H11BrO3
solvent | THF | 60 mL | C1CCOC1 | C4H8O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | Methyl 3-methoxy-4-(2-(methoxycarbonyl)-3-oxobutyl)benzoate | 15 g | COC=1C=C(C(=O)OC)C=CC1CC(C(C)=O)C(=O)OC | C15H18O6
